US05665674
Preparation of 2-acetyl-6-fluorobenzoic acid 4-(3,5-difluorophenyl)semicarbazone Table A cpd 1 )
3 g of 6-fluoro-2-acetyl benzoic acid and 3 g of 4-(3,5-difluorophenyl)semicarbazide are mixed in 20 ml of methanol and heated until clear. The solution is then stirred at R.T. for 24 hr. A white solid forms which is filtered and dried in vacuum at 60° to yield the title product m.p. 227° (decomp.). The corresponding sodium salt is made by reaction of the free acid with 25% sodium methoxylate/methanol.

reactant | 6-fluoro-2-acetyl benzoic acid | 3 g | FC1=CC=CC(=C1C(=O)O)C(C)=O | C9H7FO3
reactant | 4-(3,5-difluorophenyl)semicarbazide | 3 g | FC=1C=C(C=C(C1)F)NC(NN)=O | C7H7F2N3O
solvent | methanol | 20 ml | CO | CH4O
product | 2-acetyl-6-fluorobenzoic acid 4-(3,5-difluorophenyl)semicarbazone | FC=1C=C(C=C(C1)F)NC(NN=C(C1=C(C=CC=C1F)C(C)=O)O)=O | C16H12F3N3O3
